US08975400B2
4-(2-fluoro-4-(((5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)p-hen-oxy)-2-(trifluoromethyl)benzonitrile
Prepared in a manner similar to that described for E71 using tert-butyl 7-((4-(4-cyano-3-(trifluoromethyl)phenoxy)-3-fluorobenzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrim-idine-1-(5H)-carboxylate (75 mg, 0.137 immol) in DMF (2 mL) and silica gel.

reactant | tert-butyl 7-((4-(4-cyano-3-(trifluoromethyl)phenoxy)-3-fluorobenzyl)oxy)-5-oxo-2,3-dihydroimidazo[1,2-c]pyrim-idine-1-(5H)-carboxylate | 75 mg | C(#N)C1=C(C=C(OC2=C(C=C(COC=3C=C4N(C(N3)=O)CCN4C(=O)OC(C)(C)C)C=C2)F)C=C1)C(F)(F)F | C26H22F4N4O5
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-(2-fluoro-4-(((5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)p-hen-oxy)-2-(trifluoromethyl)benzonitrile | FC1=C(OC2=CC(=C(C#N)C=C2)C(F)(F)F)C=CC(=C1)COC=1C=C2N(C(N1)=O)CCN2 | C21H14F4N4O3
